US08859591B2
To a −40° C. solution of methyl 4-iodobenzoate (1 g, 4 mmol) in tetrahydrofuran (10 mL) was added isopropylmagnesium chloride lithium chloride (3.82 mL, 1.3 M in THF, 4.98 mmol). The mixture was stirred at −40° C. for 30 minutes, 3,3-Dimethylbutanal (573 mg, 2.86 mmol) was added. The reaction was stirred at room temperature for 4 hours. Water (10 mL) was added and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated. Purification by column chromatography gave (+/−)-methyl 4-(1-hydroxy-3,3-dimethylbutyl)benzoate (640 mg, 95%). 1H NMR (400 MHz, CDCl3, δ): 7.93 (d, 2H), 7.34 (d, 2H), 4.81-4.84 (m, 1H), 3.84 (s, 3H), 1.70-1.61 (m, 1H), 1.53-1.49 (m, 1H), 0.94 (s, 9H).

reactant | methyl 4-iodobenzoate | 4 mmol, 1 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | isopropylmagnesium chloride lithium chloride | 4.98 mmol, 1.3 M, 3.82 mL | [Cl-].[Li+].C(C)(C)[Mg]Cl
reactant | 3,3-Dimethylbutanal | 2.86 mmol, 573 mg | CC(CC=O)(C)C | C6H12O
reactant | Water | 10 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (+/−)-methyl 4-(1-hydroxy-3,3-dimethylbutyl)benzoate | 640 mg, 95% | OC(CC(C)(C)C)C1=CC=C(C(=O)OC)C=C1 | C14H20O3
